US05352684
N. 3,5-Diacetyl-1,4-dihydro-2-[6-(4,4-diphenyl-1-piperidinyl)hexyl]-6-methyl-4-(3-nitrophenyl)-pyridine hydrochloride
3.5 g (7.8 mmol) 3,5-diacetyl-1,4-dihydro-2-(6-bromohexyl)6-methyl-4-(3-nitrophenyl) -pyridine are reacted first with 2.3 g (15.6 mmol) sodium iodide, as described for starting compound B, and then with 4.3 g (15.6 mmol)4,4-diphenylpiperidine hydrochloride. Working up is carried out as described for starting compound B. The crude product is chromatographed with toluene/acetone=8/2. The product thus obtained is taken up in 5 ml acetonitrile and the mixture is diluted with 5 ml diethyl ether. The title compound is precipitated by addition of ethereal hydrochloric acid. Yield: 3 g (61%). M.p. 166°-167° C. (acetonitrile).

reactant | 3,5-diacetyl-1,4-dihydro-2-(6-bromohexyl)6-methyl-4-(3-nitrophenyl) -pyridine | 7.8 mmol, 3.5 g | C(C)(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)C)CCCCCCBr | C22H27BrN2O4
reactant | sodium iodide | 15.6 mmol, 2.3 g | [I-].[Na+]
reactant | 4,4-diphenylpiperidine hydrochloride | 15.6 mmol, 4.3 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 3,5-Diacetyl-1,4-dihydro-2-[6-(4,4-diphenyl-1-piperidinyl)hexyl]-6-methyl-4-(3-nitrophenyl)-pyridine hydrochloride | Cl.C(C)(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)C)CCCCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C39H45N3O4.ClH/c1-28-36(29(2)43)38(31-15-14-20-34(27-31)42(45)46)37(30(3)44)35(40-28)21-12-4-5-13-24-41-25-22-39(23-26-41,32-16-8-6-9-17-32)33-18-10-7-11-19-33;/h6-11,14-20,27,38,40H,4-5,12-13,21-26H2,1-3H3;1H
